US07495007B2
Preparation of intermediate E/Z-6-chloro-3-cyclopentylmethylene-1,3-dihydro-indol-2-one
In a manner similar to the method described in example 1a, 6-chlorooxindole (1.16 g, 6.59 mmol) was reacted with cyclopentanecarbaldehyde (0.77 g, 7.85 mmol) (Wiley) and piperidine (0.67 g, 7.85 mmol) in methanol to give a mixture of E- and Z-6-Chloro-3-cyclopentylmethylene-1,3-dihydro-indol-2-one as a brown oil (Yield 0.8 g, 49%).

reactant | 6-chlorooxindole | 6.59 mmol, 1.16 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | cyclopentanecarbaldehyde | 7.85 mmol, 0.77 g | C1(CCCC1)C=O | C6H10O
reactant | piperidine | 7.85 mmol, 0.67 g | N1CCCCC1 | C5H11N
solvent | methanol | CO | CH4O
product | Z-6-chloro-3-cyclopentylmethylene-1,3-dihydro-indol-2-one | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1CCCC1 | C14H14ClNO
